US04707483
7-Methoxy-1-phenyl-8-sulfamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride is treated with hydrobromic acid by the procedure of Example 2 to give 7-hydroxy-1-phenyl-8-sulfamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide.

reactant | 7-Methoxy-1-phenyl-8-sulfamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.COC1=CC2=C(C(CNCC2)C2=CC=CC=C2)C=C1S(N)(=O)=O
reactant | hydrobromic acid | Br | BrH
product | 7-hydroxy-1-phenyl-8-sulfamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.OC1=CC2=C(C(CNCC2)C2=CC=CC=C2)C=C1S(N)(=O)=O | InChI=1S/C16H18N2O3S.BrH/c17-22(20,21)16-9-13-12(8-15(16)19)6-7-18-10-14(13)11-4-2-1-3-5-11;/h1-5,8-9,14,18-19H,6-7,10H2,(H2,17,20,21);1H
